US07825128B2
(RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide
In the reaction of (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol (178 mg, 0.7 mmol) with (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide (145 mg, 0.6 mmol) according to procedure 5a, the desired product is obtained in 27% yield (85 mg) after chromatographic purification (silica gel, ethyl acetate/hexane (0%-80% ethyl acetate)).

reactant | (R)-2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | 0.7 mmol, 178 mg | ClC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C11H12ClN3OS
reactant | (RS)—S-(4-aminophenyl)-N-(ethoxycarbonyl)-S-methyl-sulfoximide | 0.6 mmol, 145 mg | NC1=CC=C(C=C1)S(=O)(=NC(=O)OCC)C | C10H14N2O3S
product | (RS)—N-(ethoxycarbonyl)-S-(4-{[4-{[(R)-2-hydroxy-1-methylethyl]amino}-5-(2-thienyl)pyrimidine-2-yl]amino}phenyl)-S-methylsulfoximide | 27% yield | C(C)OC(=O)N=S(=O)(C)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CO)C)C=1SC=CC1 | C21H25N5O4S2
